US06211215B1
In substantially the same manner as in Working Example 37, 1-[4-(4-hydroxyphenyl)butyl]-1,2,4-triazole was allowed to react with 2-(2-benzo[b]thienyl)-4-chloromethyl-5-methyloxazole to give 1-[4-[4-[2-(2-benzo[b]thienyl)-5-methyl-4-oxazolylmethoxy]phenyl]butyl]-1,2,4-triazole. The yield was 59%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 131-132° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]-1,2,4-triazole | OC1=CC=C(C=C1)CCCCN1N=CN=C1 | C12H15N3O
reactant | 2-(2-benzo[b]thienyl)-4-chloromethyl-5-methyloxazole | S1C2=C(C=C1C=1OC(=C(N1)CCl)C)C=CC=C2 | C13H10ClNOS
product | 1-[4-[4-[2-(2-benzo[b]thienyl)-5-methyl-4-oxazolylmethoxy]phenyl]butyl]-1,2,4-triazole | yield was 59% | S1C2=C(C=C1C=1OC(=C(N1)COC1=CC=C(C=C1)CCCCN1N=CN=C1)C)C=CC=C2 | C25H24N4O2S
